US07186742B2
2-Chloro-5-(6-methyl-pyridin-3-yl)-N-(1-p-tolyl-cyclohexylmethyl)-benzamide
To a solution of 2-chloro-5-(6-methyl-pyridin-3-yl)-benzoic acid (73 mg, 0.29 mmol) in N,N-dimethylformamide (4 mL) was added sequentially, stirring at room temperature for 10 minutes after each addition, 1-hydroxybenzotriazole (48 mg, 0.35 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (62 mg, 0.32 mmol), C-(1-p-tolyl-cyclohexyl)-methylamine (60 mg, 0.29 mmol) and triethylamine (31 mg, 0.31 mmol). The mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by reverse phase chromatography to afford the title compound (35 mg). LCMS (m/z) 433.2 M+1.

reactant | 2-chloro-5-(6-methyl-pyridin-3-yl)-benzoic acid | 0.29 mmol, 73 mg | ClC1=C(C(=O)O)C=C(C=C1)C=1C=NC(=CC1)C | C13H10ClNO2
reactant | 1-hydroxybenzotriazole | 0.35 mmol, 48 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.32 mmol, 62 mg | Cl.CN(CCCN=C=NCC)C
reactant | C-(1-p-tolyl-cyclohexyl)-methylamine | 0.29 mmol, 60 mg | C1(=CC=C(C=C1)C1(CCCCC1)CN)C | C14H21N
reactant | triethylamine | 0.31 mmol, 31 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Chloro-5-(6-methyl-pyridin-3-yl)-N-(1-p-tolyl-cyclohexylmethyl)-benzamide | 35 mg | ClC1=C(C(=O)NCC2(CCCCC2)C2=CC=C(C=C2)C)C=C(C=C1)C=1C=NC(=CC1)C | C27H29ClN2O
